US07576094B2
To a solution of 6′-hydroxy-5′,7′,8′-trimethylspiro[cyclobutane-1,2′-thiochromen]-4′(3′H)-one prepared as described above (300 mg) in 2 mL of pyridine was added methoxyamine hydrochloride (192 mg, 2.3 mmol). The reaction mixture was allowed to stir overnight. The mixture was washed with water and extracted with ethyl acetate. After concentration in vacuo, the residue was purified by flash chromatography eluted with 20% ethyl acetate in hexane to give 150 mg of 6′-hydroxy-5′,7′,8′-trimethylspiro[cyclobutane-1,2′-thiochromen]-4′(3′H)-one O-methyloxime, as a white solid.

reactant | 6′-hydroxy-5′,7′,8′-trimethylspiro[cyclobutane-1,2′-thiochromen]-4′(3′H)-one | OC=1C(=C2C(CC3(SC2=C(C1C)C)CCC3)=O)C | C15H18O2S
reactant | methoxyamine hydrochloride | 2.3 mmol, 192 mg | Cl.CON
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 6′-hydroxy-5′,7′,8′-trimethylspiro[cyclobutane-1,2′-thiochromen]-4′(3′H)-one O-methyloxime | 150 mg | CON=C1CC2(SC3=C(C(=C(C(=C13)C)O)C)C)CCC2 | C16H21NO2S
